US04923857
To a solution of (2S,4S)-1-allyloxycarbonyl-4-(allyloxycarbonylamino)-2-hydroxymethylpyrrolidine (8.73 g) in N,N-dimethylformamide (40 ml) were added imidazole (6.76 g) and t-butyldimethylsilyl chloride (5.10 g). The resulting mixture was allowed to stand at ambient temperature for 12 hours. The mixture was diluted with ethyl acetate (200 ml), washed in turn with water and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (100 ml) eluting with a mixture of n-hexane and ethyl acetate (7:3 V/V) to give (2S,4S)-1-allyloxycarbonyl-4-(allyloxycarbonylamino)--t-butyldimethylsilyloxymethylpyrrolidine (10.97 g).

reactant | (2S,4S)-1-allyloxycarbonyl-4-(allyloxycarbonylamino)-2-hydroxymethylpyrrolidine | 8.73 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)NC(=O)OCC=C)CO | C13H20N2O5
reactant | imidazole | 6.76 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 5.10 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-1-allyloxycarbonyl-4-(allyloxycarbonylamino)--t-butyldimethylsilyloxymethylpyrrolidine | 10.97 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)NC(=O)OCC=C)CO[Si](C)(C)C(C)(C)C | C19H34N2O5Si
